US07964608B2
3-(3-Chloro-phenyl)-1-(1-methanesulfonyl-piperidin-4-yl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (47 mg) was prepared according to general procedure H from 3-(3-chloro-phenyl)-7-methoxy-1-piperidin-4-yl-1H-pyrimido[5,4-c]quinoline-2,4-dione.dihydrochloride (50 mg, 0.1 mmol) and methanesulfonyl chloride. LCMS: m/z 515 [M+1]+. 1H NMR (400 MHz, CDCl3): δ 9.56 (s, 1H), 7.58 (m, 1H), 7.48 (m, 1H), 7.38 (m, 1H), 7.24 (m, 1H), 7.09-7.18 (m, 2H), 6.48 (m, 1H), 5.06 (m, 1H), 4.10 (s, 3H), 4.02 (m, 2H), 3.80-3.92 (m, 7H), 1.84 (m, 2H) ppm.

reactant | 3-(3-chloro-phenyl)-7-methoxy-1-piperidin-4-yl-1H-pyrimido[5,4-c]quinoline-2,4-dione.dihydrochloride | 0.1 mmol, 50 mg | Cl.Cl.ClC=1C=C(C=CC1)N1C(N(C2=C(C=NC=3C(=CC=CC23)OC)C1=O)C1CCNCC1)=O
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 3-(3-Chloro-phenyl)-1-(1-methanesulfonyl-piperidin-4-yl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 47 mg | ClC=1C=C(C=CC1)N1C(N(C2=C(C=NC=3C(=CC=CC23)OC)C1=O)C1CCN(CC1)S(=O)(=O)C)=O | C24H23ClN4O5S
